US04335228
Preparation of Imidazole-Isophorone Diisocyanate.
In a three-neck flask, provided with a magnetic stirrer, thermometer, and dropping funnel, there was placed 17.1 grams (0.25 moles) imidazole, 75 ml tetrahydrofuran, and 0.1 gram dibutyl tin dilaurate. After this material was mixed and the imidazole dissolved, 27.9 grams (0.125 moles) of isophorone diisocyanate was added dropwise while keeping the temperature between about 18°-25° C. with an ice water bath. After the isophorone diisocyanate was added, the solution was stirred for two hours and then allowed to stand for about a 12-hour period at room temperature (70° F). Isocyanate analysis showed that all of the isocyanate had reacted. The product was recovered by flashing the tetrahydrofuran at 55° C. under vacuum and then drying by placing the solids in a vacuum oven at 60° C. About 44 grams of isophorone diisocyanate blocked imidazole product was recovered.

reactant | imidazole | 0.25 moles, 17.1 grams | N1C=NC=C1 | C3H4N2
reactant | dibutyl tin dilaurate | 0.1 gram | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | isophorone diisocyanate | 0.125 moles, 27.9 grams | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | Isocyanate | [N-]=C=O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Imidazole Isophorone Diisocyanate | N1C=NC=C1.O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | InChI=1S/C12H18N2O2.C3H4N2/c1-11(2)4-10(14-9-16)5-12(3,6-11)7-13-8-15;1-2-5-3-4-1/h10H,4-7H2,1-3H3;1-3H,(H,4,5)
